US08426432B2
2,4-Diamino-5-iodopyrimidine (236 mg) was allowed to react with 5-(But-3-yn-2-yl)-1,2,3-trimethoxybenzene (440 mg) as per the general procedure to afford 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)but-1-ynyl)pyrimidine as a yellow powder (295 mg, 90%): Rf=0.29 (9:1, CHCl3:MeOH); mp=220-222° C.; 1H NMR (DMSO-d6) δ 7.85 (s, 1H), 6.75 (s, 2H), 6.28 (s, 2H), 3.99 (q, J) 6.8 Hz, 1H), 3.78 (s, 6H), 3.63 (s, 3H), 1.50 (d, J) 7.1 Hz, 3H); 13C NMR (DMSO-d6) δ 163.7, 152.8, 139.3, 136.0, 104.2, 104.1, 97.9, 76.2, 60.0, 60.0, 55.9, 55.8, 32.3, 24.3; Anal. (C17H20N4O3) C, H, N.

reactant | 2,4-Diamino-5-iodopyrimidine | 236 mg | NC1=NC=C(C(=N1)N)I | C4H5IN4
reactant | 5-(But-3-yn-2-yl)-1,2,3-trimethoxybenzene | 440 mg | CC(C#C)C=1C=C(C(=C(C1)OC)OC)OC | C13H16O3
product | 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)but-1-ynyl)pyrimidine | 295 mg, 90% | NC1=NC=C(C(=N1)N)C#CC(C)C1=CC(=C(C(=C1)OC)OC)OC | C17H20N4O3
